US07531537B2
Under ice-cooling, to a suspension of methyl trans-(4-aminocyclohexyl)acetate hydrochloride (895 mg) obtained in Reference Example 120(4) in dichloromethane (30 ml), triethylamine (1.2 ml) is added and the mixture is stirred. Aqueous 35% formaldehyde solution (1.71 ml) and sodium triacetoxy borohydride (2.74 g) are added thereto successively under ice-cooling. The reaction solution is warmed to room temperature and stirred for 6 hours. Saturated aqueous sodium hydrogen carbonate solution is poured into the mixture under ice-cooling and the mixture is extracted with chloroform. The organic layer is washed with saturated brine, dried over sodium sulfate, and then the solvent is removed under reduced pressure to give methyl trans-[4-(dimethylamino)cyclohexyl]acetate (771 mg).

reactant | methyl trans-(4-aminocyclohexyl)acetate hydrochloride | 895 mg | Cl.N[C@@H]1CC[C@H](CC1)CC(=O)OC
reactant | formaldehyde | 1.71 ml | C=O | CH2O
reactant | sodium triacetoxy borohydride | 2.74 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | methyl trans-[4-(dimethylamino)cyclohexyl]acetate | 771 mg | CN([C@@H]1CC[C@H](CC1)CC(=O)OC)C | C11H21NO2
